US03965115
A mixture of 130 g. of methyl 7-methylxanthene-2-carboxylate in 200 ml. of dichloroethane is cooled to -5°C and to the cooled solution are added 4.95 ml. of acetyl chloride and then 17.0 g. of aluminum trichloride. The resultant solution is stirred at room temperature for 1.75 hours. After this time, the solution is poured into a mixture of 300 g. of ice, 700 ml. of water and 20 ml. of concentrated hydrochloric acid. The mixture is then extracted with three 500 ml. portions of methylene chloride. The combined extracts are washed with 10% aqueous potassium hydroxide solution and the washed solution evaporated to give methyl 5-acetyl-7-methylxanthene-2-carboxylate.

reactant | methyl 7-methylxanthene-2-carboxylate | CC1=CC=C2OC=3C=CC(=CC3CC2=C1)C(=O)OC | C16H14O3
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | aluminum trichloride | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | methyl 5-acetyl-7-methylxanthene-2-carboxylate | C(C)(=O)C1=C2OC=3C=CC(=CC3CC2=CC(=C1)C)C(=O)OC | C18H16O4
